US09359338B2
Step 2: Synthesis of tert-butyl N-(4-bromo-2-pyridyl)-N-(cyclopropanecarbonyl)carbamate
Add cyclopropanecarbonyl chloride (1.42 g, 13.68 mmol) slowly to a solution of tert-butyl N-(4-bromo-2-pyridyl)carbamate (1.24 g, 4.6 mmol), Et3N (1.38 g, 13.68 mmol) in DCM (15 mL) at 0° C. After addition, stir the reaction at room temperature for 2 hrs. Pour the reaction mixture to water (50 mL), extract with EtOAc (15 mL×3), combine the organic layers and wash with brine (100 mL). Dry over anhydrous Na2SO4; concentrate under reduced pressure to give the crude product (1.55 g) which is used without further purification. MS: (M+1): 241.0

reactant | cyclopropanecarbonyl chloride | 13.68 mmol, 1.42 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | tert-butyl N-(4-bromo-2-pyridyl)carbamate | 4.6 mmol, 1.24 g | BrC1=CC(=NC=C1)NC(OC(C)(C)C)=O | C10H13BrN2O2
reactant | Et3N | 13.68 mmol, 1.38 g | CCN(CC)CC | C6H15N
reactant | water | 50 mL | O | H2O
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl N-(4-bromo-2-pyridyl)-N-(cyclopropanecarbonyl)carbamate | 1.55 g | BrC1=CC(=NC=C1)N(C(OC(C)(C)C)=O)C(=O)C1CC1 | C14H17BrN2O3
